US06320046B1
2-[[(4-Difluoromethyl-6-methoxy-1,3,5-triazin-2-yl)amino-carbonyl]aminosulfonyl]benzotrifluoride
A solution of 2.65 g of 2-amino-4-difluoromethyl-6-methoxy-1,3,5-triazine (15 mmol) in 20 ml of acetonitrile was treated at 25° C. with 3.7 g of 2-trifluoromethylbenzenesulfonyl isocyanate (15 mmol). The mixture was subsequently stirred at 25° C. for 16 h, the solvent was removed in a water-jet vacuum at 40° C. and the solid residue was stirred vigorously with 100 ml of diethyl ether. The product was filtered off with suction, washed with a little ether and dried. 4.3 g (10 mmol, 67% of theory) of the title compound of m.p. 143-145° C. were obtained.

reactant | 2-amino-4-difluoromethyl-6-methoxy-1,3,5-triazine | 15 mmol, 2.65 g | NC1=NC(=NC(=N1)C(F)F)OC | C5H6F2N4O
reactant | 2-trifluoromethylbenzenesulfonyl isocyanate | 15 mmol, 3.7 g | FC(C1=C(C=CC=C1)S(=O)(=O)N=C=O)(F)F | C8H4F3NO3S
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-[[(4-Difluoromethyl-6-methoxy-1,3,5-triazin-2-yl)amino-carbonyl]aminosulfonyl]benzotrifluoride | FC(C1=NC(=NC(=N1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(F)(F)F)F | C13H10F5N5O4S
